2147-02-13 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-12**] events
   - Felt reasonably well throughout the day, however started to feel
   worse since early this morning. SOB, not able to speak more than a few
   words due to gasping. Not able to eat much due to SOB. Also noted to be
   tachycardic and hypertensive, similar to the acute on chronic SOB he
   had yesterday that prompted transfer from floor to ICU.
 NON-INVASIVE VENTILATION - START [**2147-2-12**] 09:00 AM
 NON-INVASIVE VENTILATION - STOP [**2147-2-12**] 11:00 AM
 BLOOD CULTURED - At [**2147-2-12**] 11:13 AM
   X 2
 URINE CULTURE - At [**2147-2-12**] 11:13 AM
 NASAL SWAB - At [**2147-2-12**] 11:13 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-13**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 81 (65 - 135) bpm
   BP: 115/53(83) {110/47(64) - 141/84(99)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                     30 mL
                  PO:
                                                                     30 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,267 mL
                                                                    260 mL
   Urine:
                                                                  1,267 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,237 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 759 (759 - 759) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.45/36/123/29/2
   Ve: 16.1 L/min
   PaO2 / FiO2: 308
   Physical Examination
   GEN: NAD, aao x 3, very cooperative and pleasant.
   SKIN: warm, dry.
   HEENT: EOMI, PERRL, mmm, OP clear.
   Neck: supple, no masses, no LAD.
   CV: irregularly irregular rhythm, tachycardic, no M/R/G.
   Pulm: unable to speak more than a few words at a time. Very tight,
   little wheeze. Decreased breath sounds bilaterally.
   ABD: + bs, soft, ntnd.
   EXT: warm, dry, 2+ distal pulses, no edema or cyanosis.
   NEURO: A&O x3
   Labs / Radiology
   205 K/uL
   11.8 g/dL
   147 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.3 mEq/L
   53 mg/dL
   104 mEq/L
   141 mEq/L
   36.0 %
   19.2 K/uL
        [image002.jpg]
                             [**2147-2-12**]  09:31 AM
                             [**2147-2-13**]  01:45 AM
   WBC
   19.2
   Hct
   36.0
   Plt
   205
   Cr
   1.2
   TCO2
   26
   Glucose
   147
   Other labs: PT / PTT / INR:36.3/32.8/3.9, Lactic Acid:1.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A/P: 83 y/o male with A-fib, CAD, HTN, and COPD (on intermittent oxygen
   at home) who presented to the ED with 2 days of worsening SOB, admitted
   for COPD exacerbation on prednisone burst. Transferred to ICU due
   increased WOB, tachycardia and A fib with RVR.
   .
   # Acute respiratory distress: Hemodynamics would suggest pulmonary
   edema but no overt evidence of volume overload by CXR.  [**Month (only) 60**] be
   exacerbation of COPD although could also be cardiogenic in nature as
   episodes of SOB correspond with increased HR and BP. Patient has
   limited reserve with FEV1 40% of predicted and in setting of pneumonia
   may decompensate.  PE unlikely given INR.  No e/o aspiration by history
   or CXR. Another episode of acute on chronic SOB this morning. Per floor
   team who knew him well prior to transfer to ICU, pt tends to become
   more dyspneic in mornings and actually uses O2 at home only in the
   mornings. A fib with RVR may be precipitating these acute episodes and
   perpetuating symptoms.
   - Dilt 10 mg IV now, and start 30 mg QID, then titrate up as tolerated
   (Pt on 240mg Qdaily at home)
   - Levalbuterol already given, pt reports no benefit.
   - CXR now
   - CPAP trial, repeat ABG; wean off as tolerated. If pt requires CPAP
   again, would place an A-line for closer monitoring and frequent ABG
   checks.
   - Continue prednisone 60mg, levaquin
   - check CE's this am (1^st set neg)
   - standing levalbuterol nebulizers, tiotropium
   - continue flutic/salmeterol PRN
   - sputum culture to be sent if pt produces sputum
   - continue vitamin D, calcium
   - check urine legionella antigen
   .
   # Afib: A. Fib with RVR.  Appears to be secondary process in setting of
   acute respiratory distress or actually the precipitating factor causing
   SOB.
   - continue rate control with CCB, dilt gtt prn
   - continue anticoagulation with coumadin (INR supra-therapeutic at 3.9;
   doses x  2 held so far and will also hold tonight
s dose)
   .
   # Leukocytosis: Pan cultured.  Likely [**1-9**] to steroids but in setting of
   decompensation would eval for occult infection. f/u results
   .
   # CAD/hypercholesterolemia: No chest pain or other clinical history to
   suggests active ischemia. EKG with no e/o ischemia
   - continue home meds
   - f/u 2^nd set of cardiac enzymes today
   .
   # HTN:
   - continue home meds  (uptitrate dilt as above, continue lisinopril)
   .
   # Increased BUN:Cr ratio: Likely due to dehydration and steroid
   administration.
   - Hold further diuresis; monitor
   .
   # BPH: continue outpatient medications, place foley.
   .
   # FEN - cardiac healthy diet
   # PPx - AC with coumadin, bactrim for PCP prophylaxis, PPI
   # Access - [**Last Name (LF) 1337**] , [**First Name3 (LF) **] need an A-line
   # Code - FULL CODE but would not want prolonged life support
   # Dispo
 monitor in the ICU today
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-2-12**] 08:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-02-14 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Successfully weaned off CPAP. Maintained on nasal cannula O2 w/ Sats
   94-95%. Still c/o SOB. More comfortable w/ ativan 0.5mg x2.
   - ECHO: EF >55%, CI >2.5, No LA mass/thrombus seen. No AS. Mild-Mod MR.
   Mild PA HTN. No effusion. Mildly dilated RV.
   - Cardiac Enzymes negative (cTnI <0.04, CK-MB 5)
   - Urine legionella Ag negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-2-13**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.1
C (95.2
   HR: 71 (71 - 120) bpm
   BP: 126/57(75) {126/56(75) - 168/87(106)} mmHg
   RR: 18 (18 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    670 mL
                  PO:
                                                                    670 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    820 mL
                                                                    340 mL
   Urine:
                                                                    820 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (437 - 579) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.43/42/86/33/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GEN: NAD, aao x 3, very cooperative and pleasant.
   SKIN: warm, dry.
   HEENT: EOMI, PERRL, mmm, OP clear.
   Neck: supple, no masses, no LAD.
   CV: irregularly irregular rhythm
   Pulm: markedly decreased breath sounds throughout all lung fields.
   Scattered wheezes throughout upper fields, dry crackles in b/l bases,
   +paradoxical movement of lower ribs during early inspiration ([**Doctor Last Name **]
   sign)
   ABD: + bs, soft, ntnd.
   EXT: warm, dry, 2+ distal pulses, no edema or cyanosis.
   NEURO: A&O x3
   Labs / Radiology
   243 K/uL
   13.4 g/dL
   133 mg/dL
   1.3 mg/dL
   33 mEq/L
   5.2 mEq/L
   60 mg/dL
   102 mEq/L
   142 mEq/L
   39.4 %
   17.9 K/uL
        [image002.jpg]
                             [**2147-2-12**]  09:31 AM
                             [**2147-2-13**]  01:45 AM
                             [**2147-2-13**]  09:03 AM
                             [**2147-2-13**]  12:47 PM
                             [**2147-2-14**]  04:26 AM
   WBC
   19.2
   17.9
   Hct
   36.0
   39.4
   Plt
   205
   243
   Cr
   1.2
   1.3
   TropT
   <0.01
   <0.01
   TCO2
   26
   29
   29
   Glucose
   147
   133
   Other labs: PT / PTT / INR:36.4/30.7/3.9, CK / CKMB /
   Troponin-T:73/5/<0.01, Lactic Acid:1.2 mmol/L, Ca++:9.6 mg/dL, Mg++:3.0
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   83 y/o male with A-fib, CAD, HTN, and COPD (on intermittent oxygen at
   home) who presented to the ED with 2 days of worsening SOB, admitted
   for COPD exacerbation on prednisone burst but now with increasing WOB
   and A. Fib with RVR.
   .
   # Acute respiratory distress: Hemodynamics would suggest pulmonary
   edema but no overt evidence of volume overload by CXR.  History and
   exam more c/w COPD flare given wheezing, limited air movement and chest
   x-ray but no reported change in sputum production or increased cough.
   Patient has limited reserve with FEV1 40% of predicted and in setting
   of pneumonia may decompensate.  PE unlikely given INR.  No e/o
   aspiration by history or CXR. Able to subjectively feel better with
   trial of CPAP and anxiolytic.
   - Weaned off CPAP overnight with morphine and lorazepam for agitation
   - Cont prednisone 60mg, but due to recent rebound after steroid taper,
   will provide another slow taper, instead of burst
   - continue levaquin, short course (5 days total) for low suspicion of
   serious infection
   - standing levalbuterol nebulizers, tiotropium
   - increase flutic/salmeterol PRN
   - continue vitamin D, calcium carbonate
   - Notify Pulm c/s service and Pulmonologist (Dr. [**First Name8 (NamePattern2) **] [**Name (STitle) 593**]) to make
   aware of patient
s likely worsening of severe COPD
   .
   # Afib: A. Fib with RVR.  Appears to be secondary process in setting of
   acute respiratory distress. Improved with benzo and morphine.
   - Continue rate control with CCB, dilt gtt transitioned to po dilt 60mg
   [**Name (NI) 8372**]
   - Unclear if patient needs full dose aspirin and therapeutic warfarin.
   - Cont to hold coumadin dose for supratherapeutic INR (3.9)
   .
   # Leukocytosis: Pan culture.  Likely [**1-9**] to steroids but in setting of
   decompensation would eval for occult infection.
   - Bld / U Cx neg to date ([**2-14**])
   .
   # CAD/hypercholesterolemia: No chest pain or other clinical history to
   suggests active ischemia. EKG with no e/o ischemia
   - continue home meds
   - Cardiac enzymes neg x2
   .
   # HTN:
   - continue home meds
   .
   # BPH: continue outpatient medications, foley.
   .
   # FEN - cardiac healthy diet
   # PPx - AC with coumadin, bactrim for PCP prophylaxis, PPI
   # Access - PIV
   # Code - FULL CODE but would not want prolonged life support
   # Dispo - call out to floor this AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-2-12**] 08:48 AM
   18 Gauge - [**2147-2-13**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: